US04772602
3-[2-{N-benzyl-N-(3-phenylpropyl)amino}ethoxycarbonyl]-5-cyclopropylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3,4-dihydropyrimidine (1) Method 1:
Trichloromethyl chloroformate (719 μl) was dissolved in 40 ml of tetrahydrofuran (THF). To the resulting solution, a mixture of 5-cyclopropylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyrimidine (1.65 g) and triethylamine (3.04 g) in THF (80 ml) was added under stirring at -23° C., followed by stirring for an additional one hour at -23° C. To the resulting mixture, 2-{N-benzyl-N-(3-phenylpropyl)amino}ethan-1-ol (6.73 g) in THF (40 ml) was added at 0° C., followed by stirring for 2 hour at room temperature. The reaction mixture was diluted with a saturated aqueous solution of sodium chloride and subjected to extraction with chloroform. After drying the extract, the solvent was evaporaed and the residue (ca. 12 g) was subjected to silica gel chromatography. By elution with a 1:1 mixture of ethyl acetate and n-hexane, the end compound was obtained in an amount of 2.14 g (yield: 69%).

reactant | Trichloromethyl chloroformate | 719 μl | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 5-cyclopropylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyrimidine | 1.65 g | C1(CC1)COC(=O)C=1C(N=C(NC1C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C17H19N3O4
reactant | triethylamine | 3.04 g | C(C)N(CC)CC | C6H15N
reactant | 2-{N-benzyl-N-(3-phenylpropyl)amino}ethan-1-ol | 6.73 g | C(C1=CC=CC=C1)N(CCCC1=CC=CC=C1)CCO | C18H23NO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 80 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | 3-[2-{N-benzyl-N-(3-phenylpropyl)amino}ethoxycarbonyl]-5-cyclopropylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3,4-dihydropyrimidine | yield: 69% | C(C1=CC=CC=C1)N(CCCC1=CC=CC=C1)CCOC(=O)N1C(=NC(=C(C1C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC1CC1)C)C | C36H40N4O6
